US04113464
Preparation of N-Propargyl-N-(2,2-dimethoxyethyl)amine
N-(2,2-Dimethoxyethyl)amine (23 grams), triethylamine (31 ml) and benzene (100 ml) were charged into a glass reaction vessel equipped with a mechanical stirrer and thermometer. 1-Bromo-2-propyne (16.5 grams) was added dropwise with stirring to the reaction mixture at room temperature. After the addition was completed stirring was continued for a period of about 1 hour. After this time the reaction mixture was filtered and stripped of solvent. The residue was then distilled to yield the desired product N-propargyl-N-(2,2-dimethoxyethyl)amine having a boiling point of 70° C. at 1 mm of Hg pressure.

reactant | N-(2,2-Dimethoxyethyl)amine | 23 grams | COC(CN)OC | C4H11NO2
reactant | triethylamine | 31 ml | C(C)N(CC)CC | C6H15N
reactant | 1-Bromo-2-propyne | 16.5 grams | BrCC#C | C3H3Br
solvent | benzene | 100 ml | C1=CC=CC=C1 | C6H6
product | N-propargyl-N-(2,2-dimethoxyethyl)amine | C(C#C)NCC(OC)OC | C7H13NO2
